US07612067B2
B. 2-Methyl-thiophene-3-boronic acid.
To a solution of 4,4,5,5-tetramethyl-2-(2-methyl-thiophen-3-yl)-[1,3,2]dioxaborolane (1.52 g, 6.78 mmol), acetone (15 mL) and water (15 mL) is added NaIO4 (2.90 g, 13.56 mmol). The solution is stirred at ambient temperature for 24 hours, then heated to a reflux for 24 hours. The solution is concentrated dissolved in EtOAc (1450 mL), washed with water (100 mL), dried over MgSO4, filtered and concentrated to furnish the title compound (0.75 g, 5.49 mmol, 78%). 1H NMR (CDCl3), δ 2.93 (s, 3H), 7.10 (d, J=5.3 Hz, 1H), 7.51 (d, 5.3 Hz, 1H).

reactant | 4,4,5,5-tetramethyl-2-(2-methyl-thiophen-3-yl)-[1,3,2]dioxaborolane | 6.78 mmol, 1.52 g | CC1(OB(OC1(C)C)C1=C(SC=C1)C)C | C11H17BO2S
reactant | acetone | 15 mL | CC(=O)C | C3H6O
solvent | water | 15 mL | O | H2O
product | 2-Methyl-thiophene-3-boronic acid | 5.49 mmol, 0.75 g, 78% | CC=1SC=CC1B(O)O | C5H7BO2S
